US09145415B2
To a solution of N-Boc-hexahydro-1H-azepin-4-one (141 mg) and 3-nitroaniline (91 mg) in methylene chloride (3 mL), sodium triacetoxyborohydride (210 mg) and acetic acid (38 μL) were added at room temperature, and the mixture was stirred at the same temperature for 10 hours. To the reaction mixture, ethyl acetate and saturated aqueous sodium hydrogencarbonate were added. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 30% hexane in ethyl acetate) to obtain tert-butyl 4-((3-nitrophenyl)amino)azepane-1-carboxylate (C25, 157 mg).

reactant | N-Boc-hexahydro-1H-azepin-4-one | 141 mg | C(=O)(OC(C)(C)C)N1CCC(CCC1)=O | C11H19NO3
reactant | 3-nitroaniline | 91 mg | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | sodium triacetoxyborohydride | 210 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 38 μL | C(C)(=O)O | C2H4O2
product | tert-butyl 4-((3-nitrophenyl)amino)azepane-1-carboxylate | 157 mg | [N+](=O)([O-])C=1C=C(C=CC1)NC1CCN(CCC1)C(=O)OC(C)(C)C | C17H25N3O4
